.suckt  1stage_nmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 nmos W=33e-6 L=1e-6
M2 out in2 net_1 net_1 nmos W=33e-6 L=1e-6
M3 net_0 net_0 source_nmos source_nmos nmos W=1e-6 L=1e-6
M4 net_2 net_0 source_nmos source_nmos nmos W=1e-6 L=1e-6
M5 out bias_n_1 net_2 net_2 nmos W=16e-6 L=1e-6
M6 net_4 bias_p_3b source_pmos source_pmos pmos W=4e-6 L=1e-6
M7 net_0 ibias net_4 net_4 pmos W=4e-6 L=1e-6
M8 net_7 bias_p_3b source_pmos source_pmos pmos W=4e-6 L=1e-6
M9 out ibias net_7 net_7 pmos W=4e-6 L=1e-6
M10 net_8 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M11 net_1 bias_n_1 net_8 net_8 nmos W=1e-6 L=1e-6
M12 bias_n_1 bias_n_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
M13 bias_n_2 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 bias_p_3b bias_p_3b source_pmos source_pmos pmos W=4e-6 L=1e-6
M15 ibias ibias bias_p_3b bias_p_3b pmos W=4e-6 L=1e-6
M16 bias_n_2 bias_p_3b source_pmos source_pmos pmos W=4e-6 L=1e-6
M17 bias_n_1 bias_p_3b source_pmos source_pmos pmos W=4e-6 L=1e-6
Cap_load_1 out source_nmos
.end 1stage_nmos_input
